US09353081B2
[C] 4-Bromo-6,7-dihydroisoquinolin-8(5H)-one
The crude methyl 4-bromo-8-oxo-5,6,7,8-tetrahydroisoquinoline-7-carboxylate (7.79 g, 27.4 mmol) was dissolved (small amount of not dissolved material) in aq. 6M HCl (84.1 mL, 505 mmol) and heated at reflux for 2.5 h (dark brown solution, no more SM visible on TLC). The acidic solution was concentrated in vacuo, suspended in water (ca. 25 mL), cooled in ice, and basified with 6.0 M KOH. The aqueous solution was washed with Et2O (2×) and CH2Cl2 (3×), the combined organic layers were dried over Na2SO4, filtered and concentrated to afford after high vacuum drying the title compound (4.30 g, 69%) as brown solid. MS: 226.0 (M+H+, 1Br).

reactant | methyl 4-bromo-8-oxo-5,6,7,8-tetrahydroisoquinoline-7-carboxylate | 27.4 mmol, 7.79 g | BrC1=CN=CC=2C(C(CCC12)C(=O)OC)=O | C11H10BrNO3
reactant | HCl | 505 mmol, 6M, 84.1 mL | Cl | ClH
product | 4-Bromo-6,7-dihydroisoquinolin-8(5H)-one | BrC1=CN=CC=2C(CCCC12)=O | C9H8BrNO
